US04011230
2-Methoxy-6-(2-nitrovinyl)phenyl Acetate
A mixture of 2-methoxy-6-(2-nitrovinyl)phenol (29.0 grams, 0.15 mole) and sodium acetate (12.4 grams, 0.15 mole) in acetic anhydride (100 ml.) was refluxed for 4 hours and then poured into ice water. The resulting semi-solid precipitate was dissolved in hot 95% ethanol. Cooling the solution precipitated the crude product which was purified for analysis by chromatography on silica gel with methylene chloride as elutant. The purified 2-methoxy-6-(2-nitrovinyl)phenyl acetate melted at 128° C.-129° C.

reactant | 2-methoxy-6-(2-nitrovinyl)phenol | 0.15 mole, 29.0 grams | COC1=C(C(=CC=C1)C=C[N+](=O)[O-])O | C9H9NO4
reactant | sodium acetate | 0.15 mole, 12.4 grams | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | C(C)O | C2H6O
product | 2-Methoxy-6-(2-nitrovinyl)phenyl Acetate | C(C)(=O)OC1=C(C=CC=C1C=C[N+](=O)[O-])OC | C11H11NO5
